US05563280
Preparation of 6-(trifluoromethoxy)chromone-2-carboxylic acid
A solution of phosphorous pentoxide (1.17 g, 8.21 mole) in methanesulfonic acid (14.38 g) is treated with 2-[4-(trifluoromethoxy)phenoxy]fumaric acid (2.00 g, 6.85 mmole), stirred for 16-18 hours at ambient temperatures and for 7 hours at 70° C., cooled to room temperature and poured onto ice. The resultant mixture is filtered and the filtercake is dried to afford the title product, 1.75 g, (93% yield), mp 192°-194 ° C., identified by 1H and 13CNMR, IR, mass spectral and elemental analyses.

reactant | phosphorous pentoxide | 8.21 mole, 1.17 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | 2-[4-(trifluoromethoxy)phenoxy]fumaric acid | 6.85 mmole, 2.00 g | FC(OC1=CC=C(O/C(/C(=O)O)=C\C(=O)O)C=C1)(F)F | C11H7F3O6
solvent | methanesulfonic acid | 14.38 g | CS(=O)(=O)O | CH4O3S
product | 6-(trifluoromethoxy)chromone-2-carboxylic acid | 93% yield | FC(OC=1C=C2C(C=C(OC2=CC1)C(=O)O)=O)(F)F | C11H5F3O5
